US05633379
3.25 g (15 mmol) of 4-chloro-6-nitro-anthranilic acid and 9.73 ml of a 40% aqueous solution of tetrabutylammonium hydroxide are placed in 65 ml of dichloromethane. Then 1.43 ml (15 mmol) of dimethyl sulfate are added dropwise thereto and the mixture is stirred for 1 hour at room temperature and washed in succession with a small amount of water and saturated sodium chloride solution. The aqueous phases are extracted by shaking with dichloromethane and the combined organic phases are dried over sodium sulfate, filtered and concentrated. The residue is stirred with a small amount of ethyl acetate. The product is precipitated with hexane and dried. 1.67 g (48.3% of theory) of 4-chloro-6-nitro-anthranilic acid methyl ester having a melting point of 114°-116° are obtained.

reactant | 4-chloro-6-nitro-anthranilic acid | 15 mmol, 3.25 g | ClC=1C=C(C(C(=O)O)=C(C1)[N+](=O)[O-])N | C7H5ClN2O4
reactant | tetrabutylammonium hydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | dimethyl sulfate | 15 mmol, 1.43 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dichloromethane | 65 ml | ClCCl | CH2Cl2
product | 4-chloro-6-nitro-anthranilic acid methyl ester | 1.67 g, 48.3% | COC(C=1C(N)=CC(=CC1[N+](=O)[O-])Cl)=O | C8H7ClN2O4
